US07884204B2
Process 1 (2S)-2-[(t-butoxycarbonyl)amino]-3-[4-(3-oxo-2(3H)-isoquinolinyl)phenyl]propionic acid
The mixture of 98 mg of (2S)-2-[(t-butoxycarbonyl)amino]-3-[4-(dihydroxyboranyl)phenyl]propionic acid, 46 mg of 3-hydroxyisoquinoline, 43 mg of copper acetate (II), 175 μl of triethylamine and 10 ml of dichloromethane was stirred for two days and diluted with ethanol. After Celite filtration, the filtering solvent was concentrated and the obtained residue was diluted with ethyl acetate. After extraction by an aqueous solution of 1N sodium hydroxide, the water phase was acidified by hydrochloric acid. The organic phase was extracted with ethyl acetate. The residue was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate to remove the solvent. The obtained residue was split by HPLC to obtain the objective compound.

reactant | (2S)-2-[(t-butoxycarbonyl)amino]-3-[4-(dihydroxyboranyl)phenyl]propionic acid | 98 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)B(O)O | C14H20BNO6
reactant | 3-hydroxyisoquinoline | 46 mg | OC=1N=CC2=CC=CC=C2C1 | C9H7NO
reactant | triethylamine | 175 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
catalyst | copper acetate | 43 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (2S)-2-[(t-butoxycarbonyl)amino]-3-[4-(3-oxo-2(3H)-isoquinolinyl)phenyl]propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)N1C=C2C=CC=CC2=CC1=O | C23H24N2O5
